US07855194B2
Piperidin-4-yl-pyrimidin-2-yl-amine dihydrobromide
A solution of 4-(pyrimidin-2-ylamino)-piperidine-1-carboxylic acid ethyl ester (1.07 g, 4.28 mmol) in 48% HBr in water (60 mL) was heated to reflux for 18 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrobromide salt. MS (ISP): 179.3 [M+H]+.

reactant | 4-(pyrimidin-2-ylamino)-piperidine-1-carboxylic acid ethyl ester | 4.28 mmol, 1.07 g | C(C)OC(=O)N1CCC(CC1)NC1=NC=CC=N1 | C12H18N4O2
reactant | HBr | Br | BrH
solvent | water | 60 mL | O | H2O
product | Piperidin-4-yl-pyrimidin-2-yl-amine dihydrobromide | Br.Br.N1CCC(CC1)NC1=NC=CC=N1 | InChI=1S/C9H14N4.2BrH/c1-4-11-9(12-5-1)13-8-2-6-10-7-3-8;;/h1,4-5,8,10H,2-3,6-7H2,(H,11,12,13);2*1H
